US07074801B1
190 mg 1-methyl-4-(6-tributylstannyl-2-pyridyl)-piperazine obtained from 1-(6-bromo-2-pyridyl)-4-methyl piperazine and tributyltin chloride by the same method as in Production Method 46 was reacted in the same manner as in Example 21 with 129 mg 6-[3-(4-fluorophenyl)-1-trityl-1H-4-pyrazolyl]-3-iodoimidazo[1,2-a]pyridine obtained in Production Example 39, to give 91 mg of the title compound as a colorless amorphous.

reactant | 1-(6-bromo-2-pyridyl)-4-methyl piperazine | BrC1=CC=CC(=N1)N1CCN(CC1)C | C10H14BrN3
reactant | tributyltin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
product | 1-methyl-4-(6-tributylstannyl-2-pyridyl)-piperazine | 190 mg | CN1CCN(CC1)C1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H14N3.3C4H9.Sn/c1-12-6-8-13(9-7-12)10-4-2-3-5-11-10;3*1-3-4-2;/h2-4H,6-9H2,1H3;3*1,3-4H2,2H3;
